US05158946
(b) Diphenylmethyl 7β-Amino-3-(2,5-dihydro-2-oxofuran-3-ylmethylthio)ceph-3-em-4-carboxylate
Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-3-yl-methylthio)-7β-phenylacetamidoceph-3-em-4-carboxylate (0.83g) was dissolved in dichloromethane (11 ml) and treated with N-methylmorpholine (298μl). The atmosphere was purged with argon and the mixture cooled to -30° C. A solution of phosphorus pentachloride in dichloromethane (10.6 ml of 40 mg ml-1 solution) was added and the reaction stirred at approximately -20° C. for 30 min. Methanol (2.7 ml) was added and the reaction allowed to warm to room temperature. Water (3.6 ml) was then added and the mixture stirred vigorously for 45 min. Dichloromethane was removed using a rotary evaporator and the residue partitioned between ethyl acetate and water. The pH of the solution was adjusted to 6.0 with 1.0M aqueous ammonia before separating the organic phase, washing with water and brine, and finally drying over magnesium sulphate. Evaporation of solvent gave a residue which was purified by chromatography on silica gel (Keiselgel, 7:3 ethyl acetate:hexane) to give the title compound (600 mg). υmax (CH2Cl2) 1780 and 1760cmhu -1; δH (CDCl3) 2.04 (2H, bs) 3.44-3.73 (4H, m), 4.70 (2H, s), 4.77 (1H, d, J 5.0Hz), 4.96 (1H, d, J 4.9Hz), 6.96 (1H, s) 7.11 (1H, s), 7.27-7.46 (10H, m). [mass spectrum: +ve ion (Thioglycerol) MH+ 495].

reactant | Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-3-yl-methylthio)-7β-phenylacetamidoceph-3-em-4-carboxylate | 0.83g | O=C1OCC=C1CSC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C33H28N2O6S2
reactant | N-methylmorpholine | 298μl | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
product | Diphenylmethyl 7β-Amino-3-(2,5-dihydro-2-oxofuran-3-ylmethylthio)ceph-3-em-4-carboxylate | 600 mg | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C(OCC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O5S2
